US05254595
Following the procedure of Example 27, but starting from 4-(2,3-epoxypropoxy)-3-methyl-1,2-benzisoxazole (20.5 g) (DE-2,711,382) and 2-aminotetralin (14.82 g) in absolute ethanol (150 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(3-methyl-1,2-benzisoxazol-4-yloxy)propanamine hydrochloride is obtained ((i), R=H, Ar=radical 59, and the chain is attached to position 2 of the tetralin moiety).

reactant | 4-(2,3-epoxypropoxy)-3-methyl-1,2-benzisoxazole | 20.5 g | O1C(COC2=CC=CC3=C2C(=NO3)C)C1 | C11H11NO3
reactant | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(3-methyl-1,2-benzisoxazol-4-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=CC=CC2=C1C(=NO2)C)O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-aminotetralin | 14.82 g | NC1CC2=CC=CC=C2CC1 | C10H13N
